US07851469B2
2-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-pyrimidine
As described for Example 4, 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole (67.4 mg, 0.48 mmol) was converted, using 2-chloropyrimidine instead of 4-fluorobenzotrifluoride, to the title compound (40 mg, 35%) which was obtained as a white solid. MS: m/e=358.2 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole | 0.48 mmol, 67.4 mg | N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C13H8F3N3O
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-pyrimidine | 40 mg, 35% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=CC=N1)C(F)(F)F | C17H10F3N5O
